US07846929B2
To a solution of thioacetic acid S-(2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl) ester (200 mg) in methanol (10 mL) at 0° C. was added a solution of sodium methoxide (35 mg) in methanol (2 mL). The reaction mixture was stirred at 0° C. for 30 min and then a solution of toluene-4-sulfonic acid 3-methoxy-propyl ester (156 mg) in methanol (3 mL) was added dropwise. The reaction mixture was stirred at room temperature for 16 h and then quenched with water (20 mL) and extracted into ethyl acetate (2×20 mL). The combined organics were washed with aqueous brine solution (2×20 mL), dried (MgSO4), concentrated and purified using column chromatography to give 6-(3-methoxy-propylsulfanylmethyl)-2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine as a white solid (170 mg).

reactant | thioacetic acid S-(2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl) ester | 200 mg | CC=1N=C(C2=C(N1)C=C(S2)CSC(C)=O)N2CCOCC2 | C14H17N3O2S2
reactant | sodium methoxide | 35 mg | C[O-].[Na+]
reactant | toluene-4-sulfonic acid 3-methoxy-propyl ester | 156 mg | COCCCOS(=O)(=O)C1=CC=C(C=C1)C | C11H16O4S
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
product | 6-(3-methoxy-propylsulfanylmethyl)-2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 170 mg | COCCCSCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C | C16H23N3O2S2
